US05412137
A solution of 840 mgs of 3-(5-benzyloxypentyl)(1-hexenyl)benzene in 25 mls of methanol is hydrogenated over 5% palladium on carbon and then filtered through celite, concentrated, and chromatographed over silica gel (3:2 ether:hexane) to yield pure 5-(3-hexylphenyl)-pentanol.

reactant | 3-(5-benzyloxypentyl)(1-hexenyl)benzene | 840 mgs | C(C1=CC=CC=C1)OCCCCCC=1C=C(C=CC1)C=CCCCC | C24H32O
solvent | methanol | 25 mls | CO | CH4O
catalyst | palladium on carbon | [Pd] | Pd
product | 5-(3-hexylphenyl)-pentanol | C(CCCCC)C=1C=C(C=CC1)CCCCCO | C17H28O
